US05112841
(1) Ethyl 4-methoxybenzoylacetate
To a liquid mixture consisting of 25 ml of solvent naphtha and 50 ml of water, 19.5 g (0.15 mol) of ethyl acetoacetate were added, followed by cooling to 5° C. A 33% aqueous sodium hydroxide solution (6.5 ml) was added to the resultant liquid mixture, followed by vigorous agitation. A 33% aqueous sodium hydroxide solution (27 ml) and 27.6 g (0.16 mol) of 4-methoxybenzoyl chloride were simultaneously added in small portions over 30 minutes, whereby they were reacted while the internal temperature and pH were maintained below about 10° C. and at about 11, respectively. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 2.5 hours to allow the reaction to proceed further. After completion of the reaction, 8 g (0.15 mol) of NH4Cl were added further and the resulting mixture was allowed to stand overnight. An oil thus formed was extracted with ethyl acetate. The organic layer was washed with water and then dried. The solvent was distilled off and the residue was purified by silica gel column chromatography (solvent: hexane/ethyl acetate=5/1), whereby the title compound was obtained as a colorless oil. Yield: 16.1 g (48%)

reactant | ethyl acetoacetate | 0.15 mol, 19.5 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydroxide | 6.5 ml | [OH-].[Na+]
reactant | sodium hydroxide | 27 ml | [OH-].[Na+]
reactant | 4-methoxybenzoyl chloride | 0.16 mol, 27.6 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | NH4Cl | 0.15 mol, 8 g | [NH4+].[Cl-]
solvent | water | 50 ml | O | H2O
product | Ethyl 4-methoxybenzoylacetate | COC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O4
